US07084155B2
Preparation of 2-fluoro-pyridine-3-carbaldehyde
A solution of 2-fluoropyridine (306 mg, 3.15 mmol) in THF (1 mL) was added to a solution of lithium diisopropylamide in THF (0.20 M, 17 mL, 3.4 mmol) at −78° C. The solution was stirred at −78° C. for 4 h, then DMF (0.73 mL, 9.4 mmol) was added dropwise and stirring was continued at −78° C. for 2.5 h. Saturated NH4Cl(aq) (2 mL) was added, and the mixture was allowed to warm to room temperature. The mixture was diluted with EtOAc (20 mL), and the organic phase was washed with saturated NaHCO3(aq) (20 mL) and brine (10 mL), then dried (MgSO4) and concentrated in vacuo. Purification of the crude material by chromatography on silica gel (10% EtOAc/hexanes) gave the title compound as a yellow liquid (58 mg, 15%). 1H NMR (CDCl3) □ 7.39 (m, 1H), 8.32 (m, 1H), 8.48 (m, 1H), 10.33 (s, 1H).

reactant | 2-fluoropyridine | 3.15 mmol, 306 mg | FC1=NC=CC=C1 | C5H4FN
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | DMF | 9.4 mmol, 0.73 mL | CN(C)C=O | C3H7NO
reactant | NH4Cl | 2 mL | [NH4+].[Cl-]
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
solvent | THF | 3.4 mmol, 0.20 M, 17 mL | C1CCOC1 | C4H8O
product | 2-fluoro-pyridine-3-carbaldehyde | 58 mg, 15% | FC1=NC=CC=C1C=O | C6H4FNO
